US07202350B2
Benzo[b]thiophene (1.12 g) was dissolved in tetrahydrofuran (50 ml). This solution was cooled to −78° C., and a solution of 1.58 M hexane (10.5 ml) of n-butyllithium was added dropwise to the solution, and the mixture was stirred for 15 minutes at −78° C. Then, 5-chloro-2-bromobenzaldehyde (3.15 g) dissolved in tetrahydrofuran (50 ml) was added dropwise to the reaction mixture, and the mixture was stirred for two hours at room temperature. Aqueous solution of saturated ammonium chloride was added to the reaction mixture, and then the solvent was evaporated from the filtrate under reduced pressure to give the residue. Ethyl acetate and water were added to the residue obtained, and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, the solvent was evaporated from the filtrate under reduced pressure to give the residue, and the residue was purified by silica gel column chromatography (n-hexane-ethyl acetate) to obtain 1-benzothiene-2-yl(5-bromo-2-chlorophenyl) methanol (4.75 g). Imidazole (1.08 g) and tert-butyl dimethylchlorosilane (2.99 g) were added to a solution of 1-benzothiene-2-yl(5-bromo-2-chlorophenyl) methanol in dimethylformamide (100 ml), and the mixture was stirred for three hours at 70° C. Water was added to the reaction mixture, and extracted with diethyl ether. The organic layer was dried over magnesium sulfate, the solvent was evaporated therefrom under reduced pressure to give the residue, and the resulting residue was purified by silica gel column chromatography (n-hexane-ethyl acetate) to obtain [1-benzothiene-2-yl(5-bromo-2-chloro phenyl)methoxy](tert-butyl) dimethylsilane (3.34 g).

reactant | Benzo[b]thiophene | 1.12 g | S1C2=C(C=C1)C=CC=C2 | C8H6S
reactant | n-butyllithium | C(CCC)[Li]
reactant | 5-chloro-2-bromobenzaldehyde | 3.15 g | ClC=1C=CC(=C(C=O)C1)Br | C7H4BrClO
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | 1.58 M, 10.5 ml | CCCCCC | C6H14
product | 1-benzothiene-2-yl(5-bromo-2-chlorophenyl) methanol | 4.75 g | S1C(=CC2=C1C=CC=C2)C(O)C2=C(C=CC(=C2)Br)Cl | C15H10BrClOS
